US05290788
A mixture of 1-aminopropyl-5-(2-quinolylmethoxy)-indole (1.0 g) and benzyloxycarbonyl chloride (1.0 ml) in toluene was heated at 100° C. for 15 minutes. The cooled solution was concentrated in vacuo and the resultant product purified by chromatographed on silica gel using 30%-ethyl acetate in n-hexanes as eluent to yield 1-(3-(benzyloxycarbonylamino-n-propyl)-5-(2-quinolylmethoxy)-indole (0.27 g), m.p. 109°-111° C.

reactant | 1-aminopropyl-5-(2-quinolylmethoxy)-indole | 1.0 g | NC(CC)C=1NC2=CC=C(C=C2C1)OCC1=NC2=CC=CC=C2C=C1 | C21H21N3O
reactant | benzyloxycarbonyl chloride | 1.0 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(benzyloxycarbonylamino-n-propyl)-5-(2-quinolylmethoxy)-indole | 0.27 g | C(C1=CC=CC=C1)OC(=O)NCCCC1=CNC2=CC=C(C=C12)OCC1=NC2=CC=CC=C2C=C1 | C29H27N3O3
